US06995157B2
Butylhydrazine oxalate (41 g, 230 mmol) and 40 g of 3-(2-(4-chlorophenyl)-2-oxo-ethyl)-thiazolidine-2,4-dione (161 mmol) in 2200 mL of methanol were cooled in an ice bath and treated with 30.3 g (300 mmol) of triethylamine. The reaction mixture was stirred at room temperature for 30 minutes, then refluxed overnight. The reaction mixture was cooled and 400 mL of water was added. This mixture was extracted with ethyl acetate. The organic phase was washed twice with 10% aqueous sodium hydroxide solution, then dried and stripped. The solids obtained were recrystallized from ethyl acetate/hexane to give 9.6 g of 2-n-butyl-6-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-3-one.

reactant | Butylhydrazine oxalate | 230 mmol, 41 g | C(C(=O)O)(=O)O.C(CCC)NN
reactant | 3-(2-(4-chlorophenyl)-2-oxo-ethyl)-thiazolidine-2,4-dione | 161 mmol, 40 g | ClC1=CC=C(C=C1)C(CN1C(SCC1=O)=O)=O | C11H8ClNO3S
reactant | triethylamine | 300 mmol, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | water | 400 mL | O | H2O
solvent | methanol | 2200 mL | CO | CH4O
product | 2-n-butyl-6-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-3-one | 9.6 g | C(CCC)N1N=C(CNC1=O)C1=CC=C(C=C1)Cl | C13H16ClN3O
